US04427596
Into a solution of 17 g of 3-chloro-4-(3-methyl-3-butenyloxy)nitrobenzene and 0.4 g of tetra-n-butylammonium bromide in chloroform (29.4 g), a 50% sodium hydroxide solution (78.2 g) was dropwise added while stirring at room temperature, and stirring was continued at 50° C. for 2.5 hours. The resultant mixture was poured into ice-water and extracted with chloroform. The extract was concentrated under reduced pressure, and the precipitated crystals were subjected to filtration by a glass filter and washed with ether to give 19.4 g of 3-chloro-4-[2-(1-methyl-2,2-dichlorocyclopropyl)ethoxy]nitrobenzene.

reactant | 3-chloro-4-(3-methyl-3-butenyloxy)nitrobenzene | 17 g | ClC=1C=C(C=CC1OCCC(=C)C)[N+](=O)[O-] | C11H12ClNO3
reactant | sodium hydroxide | 78.2 g | [OH-].[Na+]
reactant | chloroform | 29.4 g | C(Cl)(Cl)Cl | CHCl3
catalyst | tetra-n-butylammonium bromide | 0.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-chloro-4-[2-(1-methyl-2,2-dichlorocyclopropyl)ethoxy]nitrobenzene | 19.4 g | ClC=1C=C(C=CC1OCCC1(C(C1)(Cl)Cl)C)[N+](=O)[O-] | C12H12Cl3NO3
